US05550258
A suspension prepared by suspending 3.7 g of zinc dust in 30 ml of tetrahydrofuran was mixed with 1.4 ml of dibromomethane in an atmosphere of argon at a temperature of -20° to -10° C. After stirring for fifteen minutes, 12.5 ml of a dichloromethane solution of 1M titanium tetrachloride was added dropwise to the suspension and stirred at the above temperatures for thirty minutes and at 4° C. for three days. A solution prepared by dissolving 3.33 g of (RS)-3-(1-methyl-2-propenyl)-4-oxocyclopent-2-en-1-yl t-butyldimethylsilyl ether in 15 ml of dichloromethane was added dropwise to the reaction solution in an atmosphere of argon at a temperature of -20° to -10° C. After stirring at an ambient temperature for six hours, 30 ml of hexane was further added to the reaction solution. Under stirring, a suspension prepared by suspending 15 g of sodium hydrogencarbonate in 100 ml of water was added gradually to the reaction solution. After stirring at an ambient temperature for two hours, the reaction solution was filtered through celite, extracted with hexane, and dried over anhydrous magnesium sulfate. After removal of the solvent under reduced pressure, the obtained oily substance was subjected to silica gel column chromatography to yield 2.02 g of (RS)-3-(1-methyl-2-propenyl)-4-methylidenecyclopent-2-en-1-yl t-butyldimethylsilyl ether. Yield 61%

reactant | dibromomethane | 1.4 ml | BrCBr | CH2Br2
reactant | (RS)-3-(1-methyl-2-propenyl)-4-oxocyclopent-2-en-1-yl t-butyldimethylsilyl ether | 3.33 g | [Si](C)(C)(C(C)(C)C)OC1C=C(C(C1)=O)C(C=C)C | C15H26O2Si
reactant | hexane | 30 ml | CCCCCC | C6H14
reactant | sodium hydrogencarbonate | 15 g | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
catalyst | zinc | 3.7 g | [Zn] | Zn
catalyst | titanium tetrachloride | 1M | [Ti](Cl)(Cl)(Cl)Cl
solvent | dichloromethane | 12.5 ml | ClCCl | CH2Cl2
product | (RS)-3-(1-methyl-2-propenyl)-4-methylidenecyclopent-2-en-1-yl t-butyldimethylsilyl ether | 2.02 g, Yield 61% | [Si](C)(C)(C(C)(C)C)OC1C=C(C(C1)=C)C(C=C)C | C16H28OSi
